US07790728B2
6-Pyridin-3-ylpyrazin-2-amine
An oven dried resealable Schlenk tube was charged with 6-chloropyrazin-2-amine (0.73 g, 5.71 mmol), 3-pyridineboronic acid (0.91 g, 7.42 mmol), dioxane (50 mL) and a 2M aqueous solution of cesium carbonate (8.5 mL, 17.13 mmol). The Schlenk tube was subjected to three cycles of evacuation-backfilling with argon, and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride dichloromethane complex (290 mg, 0.35 mmol) was added. After three new cycles of evacuation-backfilling with argon, the Schlenk tube was capped and placed in a 90° C. oil bath. After 16 h, the mixture was cooled, partitioned between water and ethyl acetate, the aqueous phase extracted twice with ethyl acetate, the organic layers washed with brine, dried (MgSO4) and evaporated. The residue was purified by silica gel flash chromatography (95:5 dichloromethane/methanol) to give the title compound (845 mg, 86%) as a solid.

reactant | 6-chloropyrazin-2-amine | 5.71 mmol, 0.73 g | ClC1=CN=CC(=N1)N | C4H4ClN3
reactant | 3-pyridineboronic acid | 7.42 mmol, 0.91 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | cesium carbonate | 17.13 mmol, 8.5 mL | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 6-Pyridin-3-ylpyrazin-2-amine | 845 mg, 86% | N1=CC(=CC=C1)C1=CN=CC(=N1)N | C9H8N4
